US06555577B1
Tetrakis(triphenylphoshine)palladium(0) (0.69 g, 0.60 mmol, 6 mol %) was added, under nitrogen, to a stirred solution of (E)-ethyl 3-(4-iodophenyl)-but-2-enoate (3.16 g, 10.0 mmol) in DME (100 ml), and the resulting orange coloured solution stirred at room temperature for 10 min. Aqueous 2M sodium carbonate (30.0 ml, 60.0 mmol) was then added, the mixture stirred for 10 min, then furan-2-boronic acid (2.25 g, 20.11 mmol) was added, and the reaction mixture heated to 80° C. for 20 h, under reflux. The reaction mixture was cooled, diluted with water (100 ml) and the products extracted into ethyl acetate (3×100 ml). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated to give the crude product, which was purified by column chromatography on silica gel (3% diethyl ether in n-heptane eluent) to give the product, (E)-ethyl 3-(4-furan-2-yl-phenyl)-but-2-enoate as an off-white solid; 2.46 g (96%).

reactant | (E)-ethyl 3-(4-iodophenyl)-but-2-enoate | 10.0 mmol, 3.16 g | IC1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C12H13IO2
reactant | sodium carbonate | 60.0 mmol, 2M, 30.0 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | furan-2-boronic acid | 20.11 mmol, 2.25 g | O1C(=CC=C1)B(O)O | C4H5BO3
solvent | DME | 100 ml | COCCOC | C4H10O2
solvent | water | 100 ml | O | H2O
product | (E)-ethyl 3-(4-furan-2-yl-phenyl)-but-2-enoate | O1C(=CC=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C16H16O3
